US04215220
108 Grams (1.586 mol) of imidazole and 283 g (1.574 mol) of sodiummethylate solution 30% in methanol are mixed and the solution is then concentrated to dryness under reduced pressure at 50° C. The crystalline residue is dissolved in 400 ml dimethylformamide at 110° C. A solution of 259 g (1.017 mol) of N-(3-chloro-2-hydroxypropyl)-2,4-dichloroaniline in 500 ml of dimethylformamide is added dropwise at 110° C. within 30 minutes. Upon completion the reaction mixture is refluxed for 2 hours and then cooled down. The solution is now added dropwise to 3400 ml of water at room temperature within 30 minutes and stirred for another hour. The precipitated granular substance is filtered off, washed with water and dried in vacuum at 50° C. to yield 263.5 g 1-[3-(2,4-dichloroanilino)-2-hydroxypropyl]-imidazole, M.P. 107°-109° C.

reactant | imidazole | 1.586 mol | N1C=NC=C1 | C3H4N2
reactant | sodiummethylate | 1.574 mol, 283 g | C[O-].[Na+]
reactant | N-(3-chloro-2-hydroxypropyl)-2,4-dichloroaniline | 1.017 mol, 259 g | ClCC(CNC1=C(C=C(C=C1)Cl)Cl)O | C9H10Cl3NO
reactant | water | 3400 ml | O | H2O
solvent | methanol | CO | CH4O
solvent | dimethylformamide | 500 ml | CN(C=O)C | C3H7NO
product | 1-[3-(2,4-dichloroanilino)-2-hydroxypropyl]-imidazole | 263.5 g | ClC1=C(NCC(CN2C=NC=C2)O)C=CC(=C1)Cl | C12H13Cl2N3O
